US04117019
A solution of 70 parts of o-xylyl chloride and 200 parts of benzene is added to a mixture of 170 parts of 85 per cent strength by weight phosphoric acid, 22 parts of water and 75 parts of zinc chloride at 75° to 80° C, whilst stirring thoroughly. After a further 5 hours, the organic phase is separated off and 78 parts (86.6% of theory) of o-benzyltoluene boiling at 98° C at 0.2 mm Hg are isolated by fractional distillation.

reactant | o-xylyl chloride | CC1=CC=CC=C1CCl | C8H9Cl
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
solvent | water | O | H2O
product | o-benzyltoluene | 86.6% | C(C1=CC=CC=C1)C1=C(C=CC=C1)C | C14H14
